US07612114B2
6-{2-{{4-[2-(7-Azabicyclo[2.2.1]hept-7-yl)ethoxy]benzyl}ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (19 mg) and 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-bromoethanone (15 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (1.7 mg) was obtained.

reactant | pivalic acid 6-{2-[ethyl(4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 19 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C32H37NO6
reactant | 1-(7-azabicyclo[2.2.1]hept-7-yl)-2-bromoethanone | 15 mg | C12CCC(CC1)N2C(CBr)=O | C8H12BrNO
product | 6-{2-{{4-[2-(7-Azabicyclo[2.2.1]hept-7-yl)ethoxy]benzyl}ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 1.7 mg | C12CCC(CC1)N2CCOC2=CC=C(CCCNC1=C(C=C(C(=C1)OC)OC)C1CC=3C=CC(=CC3CC1)O)C=C2 | C35H44N2O4
